US04523030
While stirring at from 0 to 3°, 9.61 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester are added dropwise to a suspension, cooled to 0°, of 26.6 g of aluminium trichloride in 60 ml of dichloromethane. The whole is stirred for 30 minutes at 0°, 15.9 g of o-fluorobenzoyl chloride are added dropwise thereto and stirring is carried out for 2 hours at from 0° to 3°. The whole is then poured into a mixture of 100 g of ice-water and 5 ml of concentrated hydrochloric acid, extracted by shaking twice with 100 ml of dichloromethane each time, washed with water, dried over magnesium sulphate and concentrated to dryness by evaporation. The residue is taken up in a small amount of dichloromethane, petroleum ether is added until a precipitate begins to form and the whole is then cooled. The precipitate that has formed is filtered off with suction and the filtrate is concentrated by evaporation and chromatographed over silica gel using dichloromethane as eluant. After a small number of first runnings, 4-(o-fluorobenzoyl)-5-methoxybenzocyclobutene-1-carboxylic acid methyl ester is obtained having a melting point of 73°-74°.

reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 9.61 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | aluminium trichloride | 26.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | o-fluorobenzoyl chloride | 15.9 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(o-fluorobenzoyl)-5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=C(C=CC=C2)F)=O)OC | C18H13FO4
